US06147090
cis-4-Benzyloxycarbonylamino-6-methoxy-2-methyl-3,4-dihydro-2H-quinoline-1,7-dicarboxylic acid 1-ethyl ester 7-methyl ester:
To a solution of cis-4-benzyloxycarbonylamino-6-methoxy-2-methyl-1,2,3,4-tetrahydro-quinoline-7-carboxylic acid methyl ester (0.99 g, 2.6 mmol) in anhydrous dichloromethane (30 mL) was added pyridine (0.27 mL, 3.35 mmol). The mixture was cooled to 0° C., and ethyl chloroformate (0.29 mL, 3.1 mmol) was slowly added. The reaction was stirred at 0° C. for 30 min, then at room temperature for 2.5 h. Additional aliquots of pyridine and methyl chloroformate were added to drive the reaction to completion. The reaction mixture was evaporated to dryness, and the residue was partitioned between ethyl acetate (75 ml) and water (25 ml). The organic layer was washed with water (25 mL), dried over magnesium sulfate, filtered and concentrated in vacuo to give the crude product. Purification by silica gel chromatography using 25% ethyl acetate/hexanes as eluent afforded the title product (1.06 g). MS m/z 457 (M+ +1); 1H NMR (DMSO-d6) δ 1.45 (d, 3H), 6.68 (s, 1H).

reactant | cis-4-benzyloxycarbonylamino-6-methoxy-2-methyl-1,2,3,4-tetrahydro-quinoline-7-carboxylic acid methyl ester | 2.6 mmol, 0.99 g | COC(=O)C1=C(C=C2[C@@H](C[C@@H](NC2=C1)C)NC(=O)OCC1=CC=CC=C1)OC | C21H24N2O5
reactant | pyridine | 3.35 mmol, 0.27 mL | N1=CC=CC=C1 | C5H5N
reactant | ethyl chloroformate | 3.1 mmol, 0.29 mL | ClC(=O)OCC | C3H5ClO2
reactant | methyl chloroformate | ClC(=O)OC | C2H3ClO2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | cis-4-Benzyloxycarbonylamino-6-methoxy-2-methyl-3,4-dihydro-2H-quinoline-1,7-dicarboxylic acid 1-ethyl ester 7-methyl ester | 1.06 g | COC(=O)C1=C(C=C2[C@@H](C[C@@H](N(C2=C1)C(=O)OCC)C)NC(=O)OCC1=CC=CC=C1)OC | C24H28N2O7
